US07482356B2
Preparation of 2-iodo-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one (21):
To a cold (0° C.) solution of 3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one, 20, (4.7 g, 19.1 mmol), in carbon tetrachloride/pyridine (140 mL of 1:1 mixture) is added dropwise a solution of iodine in carbon tetrachloride/pyridine (80 mL of 1:1 mixture). After stirring at 0° C. for 30 min, the ice-bath is removed at the mixture was stirred at room temperature. After stirring at room temperature for 1 hour, the reaction mixture was poured into aqueous saturated Na2S2O3. The aqueous phase is extracted with EtOAc (×3). The combined organic phases are dried (MgSO4), filtered and concentrated in vacuo. The resulting yellow solid is purified by silica gel chromatography (5% MeOH/chloroform) to afford 4.2 g of the desired product. 1H NMR (300 MHz, CDCl3) δ 8.72 (d, J=5.1 Hz, 1H), 7.97 (d, J=5.1 Hz, 1H), 4.31 (t, J=6.9 Hz, 2H), 4.10 (t, J=6.9 Hz, 2H), 2.74 (dddd, J=6.9, 6.9, 6.9, 6.9 Hz, 2H), 2.62 (s, 3H); ESI+ MS: m/z (rel intensity) 375.0 (100, M++H).

reactant | 3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | CSC1=NC=CC(=N1)C1=CC(N2N1CCC2)=O | C11H12N4OS
reactant | iodine | II | I2
solvent | carbon tetrachloride pyridine | 140 mL | C(Cl)(Cl)(Cl)Cl.N1=CC=CC=C1
solvent | carbon tetrachloride pyridine | 80 mL | C(Cl)(Cl)(Cl)Cl.N1=CC=CC=C1
product | 2-iodo-3-(2-methylsulfanyl-pyrimidin-4-yl)-6,7-dihydro-5H-pyrazolo[1,2-a]pyrazol-1-one | 4.2 g | IC1=C(N2N(CCC2)C1=O)C1=NC(=NC=C1)SC | C11H11IN4OS
